US08084448B2
E. 5-{2-Benzyloxy-4-[(E)-(S)-2-(1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
To a solution of (S)-3-((E)-2-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-vinyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (0.22 g, 0.32 mmol) in CH2Cl2 (8 mL) is added TFA (3 mL). After stirring at RT for 1.5 h, the mixture is concentrated under reduced pressure to give the title compound which is used directly in the next step.

reactant | (S)-3-((E)-2-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-vinyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.32 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1 | C36H45N3O6SSi
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 5-{2-Benzyloxy-4-[(E)-(S)-2-(1,2,3,4-tetrahydroisoquinolin-3-yl)-vinyl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\[C@H]1NCC2=CC=CC=C2C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C31H37N3O4SSi
